US08877760B2
To a mixture of 3,5-dichloropyrazine-2-carbonitrile (500 mg, 2.84 mmol) and D-valinamide HCl salt (476 mg, 3.12 mmol) in AcCN (10 mL) was added DIPEA (1.11 mL, 6.25 mmol). After stirring at room temperature for 4 h, it was diluted with EtOAc, washed with sat. NaHCO3, organic layer was separated and washed with brine, dried and concentrated to give (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-methylbutanamide (740 mg). Step 2: To a mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-methylbutanamide (100 mg, 0.394 mmol) in Dioxane (2 mL) was added 3-aminoquinoline (71 mg, 0.492 mmol), Pd(OAc)2 (18 mg, 0.079 mmol), BINAP (49 mg, 0.079 mmol) and K2CO3 (163 mg, 1.18 mmol). After heating at 95° C. for 5 h, the mixture was filtered, the filtrate was concentrated and purified by preparative HPLC to give (R)-2-(5-cyano-6-(quinolin-3-yl)pyrazin-2-ylamino)-3-methylbutanamide (113 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 2.84 mmol, 500 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | D-valinamide HCl salt | 3.12 mmol, 476 mg | Cl.N[C@H](C(C)C)C(=O)N
reactant | DIPEA | 6.25 mmol, 1.11 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | AcCN | 10 mL | C(=O)(C)C#N | C3H3NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-methylbutanamide | 740 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)C(C)C)C#N | C10H12ClN5O
